US06777428B1
4-[3-methoxybenzoyl]-1-methylpyridinium iodide
A mixture of 4-[3-methoxybenzoyl]pyridine(790 mg, 3.7 mmol) and iodomethane (1.15 ml, 18.5 mmol) in acetone (10 mL) was stirred at room temperature for 48 h. The precipitate was filtered, washed with diethyl ether and dried in vacuo to give 1.2 g (91%) of an orange powder.

reactant | 4-[3-methoxybenzoyl]pyridine | 3.7 mmol, 790 mg | COC=1C=C(C(=O)C2=CC=NC=C2)C=CC1 | C13H11NO2
reactant | iodomethane | 18.5 mmol, 1.15 ml | IC | CH3I
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 4-[3-methoxybenzoyl]-1-methylpyridinium iodide | 1.2 g, 91% | [I-].COC=1C=C(C(=O)C2=CC=[N+](C=C2)C)C=CC1 | InChI=1S/C14H14NO2.HI/c1-15-8-6-11(7-9-15)14(16)12-4-3-5-13(10-12)17-2;/h3-10H,1-2H3;1H/q+1;/p-1
